### PR TITLE
feat: hash map lemmas for filter, map and filterMap

### PR DESCRIPTION
**Pull request by Rob23oba**
This PR adds lemmas for the `filter`, `map` and `filterMap` functions of the hash map.

### CODE REVIEW

File: src/Std/Data/Internal/List/Associative.lean [hunk 1]
```diff
@@ -4097,4 +4249,1015 @@ theorem constModifyKey_eq_modifyKey {β : Type v} [BEq α] [LawfulBEq α] {k : 
...
+  simp only [containsKey_eq_isSome_getEntry?, getEntry?_filter hl,
+    Option.isSome_filter, Option.any_eq_true, Option.mem_def,
+    exists_getEntry?_eq_some_iff, getEntry_eq_getKey_getValue]
+
+theorem getKey?_filterMap [BEq α] [LawfulBEq α]
+    {f : (a : α) → β a→ Option (γ a)}
+    {l : List ((a : α) × β a)} {k : α} (hl : DistinctKeys l) :
+    getKey? k (l.filterMap fun p => (f p.1 p.2).map (fun x => (⟨p.1, x⟩ : (a : α) × γ a))) =
+      (getKey? k l).pfilter (fun x h =>
+      (f x (getValueCast x l (containsKey_of_getKey?_eq_some (Option.mem_iff.mp h)))).isSome) := by
```
Comment (jt0202) [inline src/Std/Data/Internal/List/Associative.lean:4778]: Unless we are missing something, it seems impossible to write a theorem for getKey? with just `EquivBEq α`

File: src/Std/Data/DHashMap/Internal/RawLemmas.lean [hunk 2]
```diff
@@ -3065,6 +3064,211 @@ end Const
...
+  simp_to_model using List.containsKey_of_getKey?_eq_some
+
+theorem getKey?_filterMap [LawfulBEq α]
+    {f : (a : α) → β a → Option (γ a)} {k : α} (h : m.1.WF) :
+    (m.filterMap f).getKey? k =
+    (m.getKey? k).pfilter (fun x h' =>
+      (f x (m.get x (contains_of_getKey?_eq_some m h h'))).isSome) := by
+  simp_to_model [filterMap] using List.getKey?_filterMap
+
+theorem getKey_filterMap [LawfulBEq α]
```
[the remark this answers is not in the document]
Comment (jt0202) [reply src/Std/Data/DHashMap/Internal/RawLemmas.lean:3150]: Shouldn't be the case. Probably just copied lemmas a bit too eagerly.

File: src/Std/Data/DHashMap/Internal/RawLemmas.lean [hunk 3]
```diff
@@ -3065,6 +3064,211 @@ end Const
 
 end Equiv
 
+section filterMap
+
+variable {γ : α →  Type w}
+
+theorem isEmpty_filterMap_eq_true [LawfulBEq α]
```
[the remark this answers is not in the document]
Comment (jt0202) [reply src/Std/Data/DHashMap/Internal/RawLemmas.lean:3071]: Would the negative case below, thenbe `isEmpty_filterMap_eq_false_iff`?

[the remark this answers is not in the document]
Comment (TwoFX) [reply src/Std/Data/DHashMap/Internal/RawLemmas.lean:3071]: Yes, sounds good!

File: src/Init/Data/List/Lemmas.lean [hunk 4]
```diff
@@ -1049,6 +1049,10 @@ theorem getLast?_tail (l : List α) : (tail l).getLast? = if l.length = 1 then n
   | nil => simp [List.map]
   | cons _ as ih => simp [List.map, ih]
 
+
```
Comment (TwoFX) [inline src/Init/Data/List/Lemmas.lean:1052]:
```suggestion
```

File: src/Init/Data/List/Lemmas.lean [hunk 5]
```diff
@@ -1049,6 +1049,10 @@ theorem getLast?_tail (l : List α) : (tail l).getLast? = if l.length = 1 then n
...
+theorem isEmpty_map {l : List α} {f: α → β} : (l.map f).isEmpty = l.isEmpty := by
```
Comment (TwoFX) [inline src/Init/Data/List/Lemmas.lean:1053]:
```suggestion
@[simp] theorem isEmpty_map {l : List α} {f : α → β} : (l.map f).isEmpty = l.isEmpty := by
```

File: src/Init/Data/Option/Lemmas.lean [hunk 6]
```diff
@@ -687,6 +687,17 @@ theorem pmap_map (o : Option α) (f : α → β) {p : β → Prop} (g : ∀ b, p
        o.pelim g (fun a h => g' (f a (H a h))) := by
   cases o <;> simp
 
+/-! ### pfilter -/
+
```
Comment (TwoFX) [inline src/Init/Data/Option/Lemmas.lean:691]: Please also provide a handful of basic lemmas, similar to what exists for `Option.filter`.

File: src/Init/Data/Option/Instances.lean [hunk 7]
```diff
@@ -144,6 +144,13 @@ none
   | none => b
   | some a => f a rfl
 
+/-- Partial filter. If `o : Option α`, `p : (a : α) → a ∈ x → Bool`, then `o.pfilter p` is
+the same as `o.filter p` but `p` is passed the proof that `a ∈ o`. -/
+@[inline] def pfilter (o : Option α) (p : (a : α) → a ∈ o → Bool) : Option α :=
```
Comment (TwoFX) [inline src/Init/Data/Option/Instances.lean:149]: We're actually moving away from explicitly mentioning the `Membership` instance on `Option` anywhere in lemmas (it's not in `simp` normal form due to `Option.mem_def`), so please switch everything to use `o = some a` instead of `a ∈ o`.

File: src/Std/Data/DHashMap/Internal/RawLemmas.lean [hunk 8]
```diff
@@ -3065,6 +3069,499 @@ end Const
...
+  simp_to_model [filterMap] using containsKey_of_containsKey_filterMap
+
+theorem size_filterMap_le_size [EquivBEq α] [LawfulHashable α]
+    {f : (a : α) → β a → Option (γ a)} (h : m.1.WF) :
+    (m.filterMap f).1.size ≤ m.1.size := by
+  simp_to_model [filterMap] using List.length_filterMap_le
+
+theorem size_filterMap_eq_size_iff [LawfulBEq α]
+    {f : (a : α) → β a → Option (γ a)} (h : m.1.WF) :
+    (m.filterMap f).1.size = m.1.size ↔ ∀ (a : α) (h : m.contains a), (f a (m.get a h)).isSome:= by
```
Comment (TwoFX) [inline src/Std/Data/DHashMap/Internal/RawLemmas.lean:3105]:
```suggestion
    (m.filterMap f).1.size = m.1.size ↔ ∀ (a : α) (h : m.contains a), (f a (m.get a h)).isSome := by
```

File: src/Std/Data/DHashMap/Internal/RawLemmas.lean [hunk 9]
```diff
@@ -3065,6 +3069,499 @@ end Const
 
 end Equiv
 
+section filterMap
+
+variable {γ : α →  Type w}
```
Comment (TwoFX) [inline src/Std/Data/DHashMap/Internal/RawLemmas.lean:3074]:
```suggestion
variable {γ : α → Type w}
```

File: src/Std/Data/DHashMap/Internal/RawLemmas.lean [hunk 10]
```diff
@@ -3065,6 +3069,499 @@ end Const
...
+      ((m.getKey? k).bind (fun x => (Const.get? m k).bind (f x))).get! := by
+  simp_to_model [filterMap] using List.Const.getValue!_filterMap
+
+theorem getD_filterMap [EquivBEq α] [LawfulHashable α]
+    {f : (a : α) → β → Option γ} {k : α} {fallback : γ} (h : m.1.WF) :
+    Const.getD (m.filterMap f) k fallback =
+      ((m.getKey? k).bind (fun x => (Const.get? m k).bind (f x))).getD fallback := by
+  simp_to_model [filterMap] using List.Const.getValueD_filterMap
+
+--theorem toList_filterMap [EquivBEq α] [LawfulHashable α]
```
Comment (TwoFX) [inline src/Std/Data/DHashMap/Internal/RawLemmas.lean:3235]: Is there a problem with this lemma?

File: src/Std/Data/DHashMap/Internal/RawLemmas.lean [hunk 11]
```diff
@@ -3065,6 +3069,499 @@ end Const
...
+  simp_to_model [filterMap] using List.Const.getKeyD_filterMap
+
+end Const
+
+end filterMap
+
+section filter
+
+theorem isEmpty_filter_iff [LawfulBEq α]
+    {f : (a : α) → β a→ Bool} (h : m.1.WF) :
```
Comment (TwoFX) [inline src/Std/Data/DHashMap/Internal/RawLemmas.lean:3275]:
```suggestion
    {f : (a : α) → β a → Bool} (h : m.1.WF) :
```
(also elsewhere)

File: src/Std/Data/DHashMap/Internal/RawLemmas.lean [hunk 12]
```diff
@@ -3065,6 +3069,499 @@ end Const
...
+      ∀ (k : α) (h : m.contains k = true), f k (m.get k h) = false := by
+  simp_to_model [filter] using List.isEmpty_filter_eq_true
+
+theorem isEmpty_filter_eq_false_iff [LawfulBEq α]
+    {f : (a : α) → β a→ Bool} (h : m.1.WF) :
+    (m.filter f).1.isEmpty = false ↔
+      ∃ (k : α) (h : m.contains k = true), f k (m.get k h) = true := by
+  simp_to_model [filter] using List.isEmpty_filter_eq_false
+
+theorem contains_filter [LawfulBEq α]
```
Comment (TwoFX) [inline src/Std/Data/DHashMap/Internal/RawLemmas.lean:3286]: Hmm, I think it would be great if in the case where `f k v = g k` for some `g`, the simplifier would turn `k ∈ m.filter f` into `k ∈ m ∧ g k`. I wonder if we can set things up so that this works, of whether we'll be introducing a `filterKeys` function at some time in the future.

File: src/Std/Data/DHashMap/Internal/RawLemmas.lean (hunk 10 above)
Comment (jt0202) [reply src/Std/Data/DHashMap/Internal/RawLemmas.lean:3235]: `simp_to_model` does not simplify all Hashmap functions to list functions and I don't understand why. Here some `filterMap` remains that does not become `List.filterMap`.

File: src/Std/Data/DHashMap/Internal/RawLemmas.lean (hunk 12 above)
Comment (jt0202) [reply src/Std/Data/DHashMap/Internal/RawLemmas.lean:3286]: We would need to add a lemma of the form `∃ v, m.get? k = some v ↔ m.contains k ` to the simp set and then you would get your statement with `simp [contains_filter m h, Option.any_eq_true]`. Not sure if `Option.any_eq_true` is also suitable as a simp lemma.

File: src/Init/Data/List/Lemmas.lean [hunk 13]
```diff
@@ -1049,6 +1049,9 @@ theorem getLast?_tail (l : List α) : (tail l).getLast? = if l.length = 1 then n
   | nil => simp [List.map]
   | cons _ as ih => simp [List.map, ih]
 
+@[simp]theorem isEmpty_map {l : List α} {f: α → β} : (l.map f).isEmpty = l.isEmpty := by
```
Comment (TwoFX) [inline src/Init/Data/List/Lemmas.lean:1052]:
```suggestion
@[simp] theorem isEmpty_map {l : List α} {f : α → β} : (l.map f).isEmpty = l.isEmpty := by
```

File: src/Init/Data/Option/Lemmas.lean (hunk 6 above)
Comment (jt0202) [reply src/Init/Data/Option/Lemmas.lean:769]: I actually moved now all lemmas we added about Option (except those with dmap) out of internal. Do the lemmas suffice ?

File: src/Std/Data/DHashMap/Internal/RawLemmas.lean (hunk 10 above)
Comment (TwoFX) [reply src/Std/Data/DHashMap/Internal/RawLemmas.lean:3235]: It's a matter of teaching the right congruence lemma to `simp_to_model` so it can deal with the RHS of `Raw.Const.toList_eq_toListModel_map`. See https://github.com/leanprover/lean4/commit/d0ccd6d3f1d107c8521d0826afdf9e06f83e8f67

**Comment by TwoFX** [comment]
Feel free to mark threads that you have addressed as resolved and add `awaiting-review` or ping me on Zulip when you'd like feedback, this makes it easier for me to see what the status of the PR is.

**Comment by TwoFX** [comment]
One more request: could you spin off your `Option` material into a separate PR? We're expecting some movement on `Option` from the FRO side soon, so it would be good to get this merged ahead of the rest of this PR.

File: src/Init/Data/Option/Lemmas.lean [hunk 14]
```diff
@@ -691,6 +765,65 @@ theorem pmap_map (o : Option α) (f : α → β) {p : β → Prop} (g : ∀ b, p
...
+    constructor
+    · intro h
+      exists a'
+      exists rfl
+    · intro h
+      rcases h with ⟨a, ha, h⟩
+      simp [ha, h]
+
+theorem pfilter_eq_some {α : Type _} {o : Option α} {p : (a : α) → o = some a → Bool}
+    {a : α} (ha : a ∈ o) :
```
[the remark this answers is not in the document]
Comment (Rob23oba) [reply src/Init/Data/Option/Lemmas.lean]: I moved to a different lemma statement without the hypothesis.

File: src/Init/Data/Option/Lemmas.lean [hunk 15]
```diff
@@ -691,6 +765,65 @@ theorem pmap_map (o : Option α) (f : α → β) {p : β → Prop} (g : ∀ b, p
...
+    o.pfilter f = o'.pfilter g := by
+  cases ho
+  congr; funext a ha
+  exact hf a ha
+
+theorem pfilter_none {α : Type _} {p : (a : α) → none = some a → Bool} :
+    none.pfilter p = none := by
+  simp [pfilter]
+
+theorem pfilter_some {α : Type _} {x : α} {p : (a : α) → some x = some a → Bool} :
```
[the remark this answers is not in the document]
Comment (Rob23oba) [reply src/Init/Data/Option/Lemmas.lean]: What exactly about `simp`?

File: src/Init/Data/Option/Attach.lean [hunk 16]
```diff
@@ -257,6 +257,15 @@ and simplifies these to the function directly taking the value.
     o.map f = o.unattach.map g := by
   cases o <;> simp [hf]
 
+theorem Option.map_subtype' {α β : Type _} {o : Option α}
```
[the remark this answers is not in the document]
Comment (Rob23oba) [reply src/Init/Data/Option/Attach.lean:260]: I didn't really intend to keep this lemma; it only comes from the observation that `simp` currently doesn't apply `Option.map_subtype` reliably when multiple are nested.

File: src/Init/Data/Option/Attach.lean [hunk 17]
```diff
@@ -257,6 +257,15 @@ and simplifies these to the function directly taking the value.
...
+    {f : α → β} : o.attach.map (fun a => f a.1) = o.map f := by
+  cases o <;> rfl
+
+theorem Option.map_subtype'' {α β : Type _} {o : Option α}
```
[the remark this answers is not in the document]
Comment (Rob23oba) [reply src/Init/Data/Option/Attach.lean:264]: Again, I didn't want to keep this lemma, this was just for testing.

File: src/Std/Data/DHashMap/Internal/RawLemmas.lean (hunk 12 above)
Comment (Rob23oba) [reply src/Std/Data/DHashMap/Internal/RawLemmas.lean:3288]: This works:
```lean
theorem Option.any_eq_true' (p : α → Bool) (x : Option α) :
    x.any p = true ↔ ∃ h : x.isSome, p (x.get h) := by
  cases x <;> simp

example [BEq α] [Hashable α] [LawfulBEq α] {m : Raw₀ α β} (h : m.1.WF) (g : α → Bool) (x : α) :
    (m.filter (fun a _ => g a)).contains x ↔ m.contains x ∧ g x := by
  simp only [h, Raw₀.contains_filter, Option.any_eq_true',
    ← Raw₀.contains_eq_isSome_get?, exists_prop]
```
I think the `isSome` and `get` combo could work well but it'd probably be nice if the exists didn't pretty-print without the type, making it a bit confusing (perhaps even notation like `(h : p) ∧ q h` would be nice for this).

**Comment by Rob23oba** [comment]
What's the best way to split a PR? My first thought would've been diff, remove some stuff and then patch on a different branch, is there a better way? Also I suppose this PR would need to depend on the other then, what's the best way to do that? (some kind of rebasing perhaps..?)

File: src/Std/Data/DHashMap/Internal/RawLemmas.lean [hunk 18]
```diff
@@ -3065,6 +3073,498 @@ end Const
...
+theorem getD_map [LawfulBEq α]
+    {f : (a : α) → β a → γ a} {k : α} {fallback : γ k} (h : m.1.WF) :
+    (m.map f).getD k fallback = ((m.get? k).map (f k)).getD fallback := by
+  simp_to_model [map, getD, get?] using List.getValueCastD_map
+
+omit [BEq α] [Hashable α] in
+theorem toList_map
+    {f : (a : α) → β a → γ a} :
+    (m.map f).1.toList.Perm
+      (m.1.toList.map (fun p => ⟨p.1,f p.1 p.2⟩)) := by
```
Comment (TwoFX) [inline src/Std/Data/DHashMap/Internal/RawLemmas.lean:3502]:
```suggestion
      (m.1.toList.map (fun p => ⟨p.1, f p.1 p.2⟩)) := by
```

File: src/Std/Data/DHashMap/Internal/RawLemmas.lean [hunk 19]
```diff
@@ -3065,6 +3073,498 @@ end Const
...
+    (m.map f).get! k = ((m.get? k).map (f k)).get! := by
+  simp_to_model [map, get?, get!] using List.getValueCast!_map
+
+theorem getD_map [LawfulBEq α]
+    {f : (a : α) → β a → γ a} {k : α} {fallback : γ k} (h : m.1.WF) :
+    (m.map f).getD k fallback = ((m.get? k).map (f k)).getD fallback := by
+  simp_to_model [map, getD, get?] using List.getValueCastD_map
+
+omit [BEq α] [Hashable α] in
+theorem toList_map
```
Comment (TwoFX) [inline src/Std/Data/DHashMap/Internal/RawLemmas.lean:3499]: `keys_map` seems to be missing.

File: src/Std/Data/DHashMap/Internal/RawLemmas.lean [hunk 20]
```diff
@@ -3065,6 +3073,498 @@ end Const
...
+    {f : (a : α) → β a → γ a} {k : α} (h : m.1.WF) :
+    (m.map f).contains k = m.contains k := by
+  simp_to_model [map, contains] using List.containsKey_map
+
+theorem contains_of_contains_map [EquivBEq α] [LawfulHashable α]
+    {f : (a : α) → β a → γ a} {k : α} (h : m.1.WF) :
+    (m.map f).contains k = true → m.contains k = true := by
+  simp [contains_map m h]
+
+theorem size_map_eq_size [EquivBEq α] [LawfulHashable α]
```
Comment (TwoFX) [inline src/Std/Data/DHashMap/Internal/RawLemmas.lean:3472]: Shorten to `size_map` to be consistent with `size_modify`.

File: src/Std/Data/DHashMap/Internal/RawLemmas.lean [hunk 21]
```diff
@@ -3065,6 +3073,498 @@ end Const
...
+      (f (m.getKey k h') (Const.get m k h')) := by
+  simp_to_model [filter, contains, getKey, Const.get] using List.Const.containsKey_filter_iff
+
+theorem size_filter_eq_size_iff [EquivBEq α] [LawfulHashable α]
+    {f : (a : α) → β → Bool} (h : m.1.WF) :
+    (m.filter f).1.size = m.1.size ↔ ∀ (a : α) (h : m.contains a),
+      f (m.getKey a h) (Const.get m a h) := by
+  simp_to_model [filter, size, contains, getKey, Const.get] using List.Const.length_filter_eq_length_iff
+
+theorem get?_filter [EquivBEq α] [LawfulHashable α]
```
Comment (TwoFX) [inline src/Std/Data/DHashMap/Internal/RawLemmas.lean:3390]: I suspect that in many applications it will be known a priori that `k` is present in `m` when trying to apply this lemma. For this reason I think it would be good to offer an additional variant that looks something like this, avoiding `pfilter`:
```lean
theorem get?_filter_of_getKey?_eq_some [EquivBEq α] [LawfulHashable α]
    {f : (a : α) → β → Bool} {k : α} (h : m.1.WF) {k' : β} (hk : m.getKey? k = some k') :
    Const.get? (m.filter f) k = (Const.get? m k).filter (fun x h' => f k' x) := by
```

File: src/Std/Data/DHashMap/Internal/RawLemmas.lean (hunk 12 above)
Comment (TwoFX) [reply src/Std/Data/DHashMap/Internal/RawLemmas.lean:3288]: Thinking about it again, I'm now leaning towards just providing the statement you showed as an additional lemma for all of the query functions.

File: src/Std/Data/DHashMap/Internal/RawLemmas.lean [hunk 22]
```diff
@@ -3065,6 +3078,512 @@ end Const
...
+    {f : (a : α) → β a → Bool} :
+    (m.filter f).1.toList.Perm
+      (m.1.toList.filter (fun p => (f p.1 p.2))) := by
+  simp_to_model [filter, toList, Equiv] using List.Perm.rfl
+
+--theorem keys_filter [LawfulBEq α] {f : (a : α) → β a → Bool} (h : m.1.WF):
+--    (m.filter f).1.keys.Perm
+--      (m.1.keys.attach.filter (fun ⟨x,_h⟩ => f x (m.get x ((mem_keys m h).mp _h))) ).unattach := by
+--  simp_to_model [keys, filter, Equiv, get]
+--  sorry
```
Comment (jt0202) [inline src/Std/Data/DHashMap/Internal/RawLemmas.lean:3345]: Do we want to have keys in a way like this? Proving this is more difficult. An alternative is to basically apply the definition of keys to `toList_filter`.

File: src/Std/Data/DHashMap/Internal/RawLemmas.lean (hunk 21 above)
Comment (jt0202) [reply src/Std/Data/DHashMap/Internal/RawLemmas.lean:3422]: I added further results for the get functions. I don't think it makes sense for the getKey family.

File: src/Std/Data/DHashMap/Internal/RawLemmas.lean (hunk 12 above)
Comment (jt0202) [reply src/Std/Data/DHashMap/Internal/RawLemmas.lean:3314]: I dislike the lemma above. Mixing bool and iff directly will make rewriting later difficult. I propose the following:

```
theorem Option.any_const {α : Type u} {o : Option α} {b : Bool} :
    o.any (fun _ => b) = (o.isSome && b) := by
  cases o <;> simp

theorem contains_filter_key [LawfulBEq α]
    {f : (a : α) → Bool} {k : α} (h : m.1.WF) :
    (m.filter (fun a _ => f a)).contains k = (f k && m.contains k) := by
  simp only [h, contains_filter, Option.any_const, Bool.and_comm, contains_eq_isSome_get?]
```

File: src/Std/Data/DHashMap/Internal/RawLemmas.lean (hunk 22 above)
Comment (TwoFX) [reply src/Std/Data/DHashMap/Internal/RawLemmas.lean:3392]: I think `(m.filter f).1.toList.Perm ((m.1.toList.filter (fun p => (f p.1 p.2))).map Sigma.fst)` sounds like a reasonable statement?

File: src/Std/Data/DHashMap/Internal/RawLemmas.lean [hunk 23]
```diff
@@ -3065,6 +3082,593 @@ end Const
...
+    {f : (a : α) → β a → Option (γ a)} {k : α} {fallback : γ k} (h : m.1.WF) :
+    (m.filterMap f).getD k fallback = ((m.get? k).bind (f k)).getD fallback := by
+  simp_to_model [filterMap, getD, get?] using List.getValueCastD_filterMap
+
+omit [BEq α] [Hashable α] in
+theorem toList_filterMap
+    {f : (a : α) → β a → Option (γ a)} :
+    (m.filterMap f).1.toList.Perm
+      (m.1.toList.filterMap (fun p => (f p.1 p.2).map (fun x => ⟨p.1, x⟩))) := by
+  simp_to_model [filterMap, toList, Equiv] using List.Perm.rfl
```
Comment (TwoFX) [inline src/Std/Data/DHashMap/Internal/RawLemmas.lean:3154]: `keys_filterMap`?

File: src/Std/Data/DHashMap/Internal/RawLemmas.lean (hunk 12 above)
Comment (TwoFX) [reply src/Std/Data/DHashMap/Internal/RawLemmas.lean:3330]: Yes, looks good. `Option.any_const` is fine, as is `Option.any_eq_and`.

File: src/Std/Data/DHashMap/Internal/RawLemmas.lean [hunk 24]
```diff
@@ -3065,6 +3082,593 @@ end Const
...
+    {f : (a : α) → β → Bool} {k fallback : α} (h : m.1.WF) :
+    (m.filter f).getKeyD k fallback =
+    ((m.getKey? k).pfilter (fun x h' =>
+      (f x (Const.get m x (contains_of_getKey?_eq_some m h h'))))).getD fallback := by
+  simp_to_model [filter, getKeyD, getKey?, Const.get] using List.Const.getKeyD_filter
+
+theorem getKey?_filter_key [EquivBEq α] [LawfulHashable α]
+    {f : (a : α) → Bool} {k : α} (h : m.1.WF) :
+    (m.filter (fun a _ => f a)).getKey? k =
+      (m.getKey? k).filter (fun x => f x) := by
```
Comment (TwoFX) [inline src/Std/Data/DHashMap/Internal/RawLemmas.lean:3530]: Does this work?
```suggestion
    {f : α → Bool} {k : α} (h : m.1.WF) :
    (m.filter (fun a _ => f a)).getKey? k =
      (m.getKey? k).filter f := by
```

File: src/Std/Data/DHashMap/Internal/RawLemmas.lean (hunk 23 above)
Comment (jt0202) [reply src/Std/Data/DHashMap/Internal/RawLemmas.lean:3154]: I wanted to wait on the feedback for `keys_filter` as they are probably similar before writing something.

File: src/Init/PropLemmas.lean [hunk 25]
```diff
@@ -310,10 +310,12 @@ theorem Exists.nonempty : (∃ x, p x) → Nonempty α | ⟨x, _⟩ => ⟨x⟩
 theorem not_forall_of_exists_not {p : α → Prop} : (∃ x, ¬p x) → ¬∀ x, p x
   | ⟨x, hn⟩, h => hn (h x)
 
-@[simp] theorem forall_eq {p : α → Prop} {a' : α} : (∀ a, a = a' → p a) ↔ p a' :=
+@[simp] theorem forall_eq {a' : α} {p : (a : α) → a = a' → Prop} :
```
[the remark this answers is not in the document]
Comment (jt0202) [reply src/Init/PropLemmas.lean:313]: I guess the merge did not work there.

File: src/Std/Data/DHashMap/Internal/RawLemmas.lean (hunk 12 above)
Comment (Rob23oba) [reply src/Std/Data/DHashMap/Internal/RawLemmas.lean:3330]: I think it's fine here (bool vs iff) because you shouldn't use `contains` but instead the membership operator on the user side.

File: src/Init/Core.lean [hunk 26]
```diff
@@ -735,6 +735,18 @@ Unlike `x ≠ y` (which is notation for `Ne x y`), this is `Bool` valued instead
 
 recommended_spelling "bne" for "!=" in [bne, «term_!=_»]
 
+/-- `ReflBEq α` says that the `BEq` implementation is reflexive. -/
+class ReflBEq (α) [BEq α] : Prop where
+  /-- Reflexivity for `BEq`. -/
+  refl : (a : α) == a
+
```
Comment (Rob23oba) [inline src/Init/Core.lean:742]: I know this is a pretty big change, is this fine? I did this to ensure that `elem_eq_true_of_mem` can take `ReflBEq`. The imports are a bit weird since Init.Data.BEq depends on Init.Data.List.Basic so I can't use that. I just put it here because it seemed safest (also `LawfulBEq` is related and, honestly, we might want `LawfulBEq` to extend `ReflBEq` but it's probably too late to do that change).

File: src/Std/Data/DHashMap/Internal/RawLemmas.lean [hunk 27]
```diff
@@ -3065,6 +3087,622 @@ end Const
...
+end filter
+
+section map
+
+variable {γ : α → Type w}
+
+theorem filterMap_eq_map [EquivBEq α] [LawfulHashable α]
+    {f : (a : α) → β a → γ a} (h : m.1.WF) :
+    m.filterMap (fun k v => Option.some (f k v)) = m.map f := by
+  rw [map_eq_mapₘ, filterMap_eq_filterMapₘ, mapₘ, filterMapₘ]
```
Comment (Rob23oba) [inline src/Std/Data/DHashMap/Internal/RawLemmas.lean:3580]: Do we want this (and `filterMap_eq_filter`) directly or should this rather be an `Equiv` to avoid being implementation-dependent? I guess you can also ask a similar question for the introduction of `modify_eq_alter`.

File: src/Std/Data/DHashMap/Internal/AssocList/Lemmas.lean [hunk 28]
```diff
@@ -16,6 +16,7 @@ File contents: Connecting operations on `AssocList` to operations defined in `Li
 
 set_option linter.missingDocs true
 set_option autoImplicit false
+set_option Elab.async false
```
[the remark this answers is not in the document]
Comment (Rob23oba) [reply src/Std/Data/DHashMap/Internal/AssocList/Lemmas.lean:19]: With `Elab.async`, Lean feels less responsive and sometimes even hangs (as in dead-lock or similar). I tend to avoid this by doing `Elab.async false` while editing, this should probably be removed though for building (not sure if this is perhaps a windows-specific issue, #7684 got closed but I still get the same problems).

[the remark this answers is not in the document]
Comment (Kha) [reply src/Std/Data/DHashMap/Internal/AssocList/Lemmas.lean:19]: Your reproducer in that issue was very helpful, could you look out for any others? There is also a developing discussion at [#general > v4.19.0-rc2 @ 💬](https://leanprover.zulipchat.com/#narrow/channel/113488-general/topic/v4.2E19.2E0-rc2/near/510596424).

[the remark this answers is not in the document]
Comment (Kha) [reply src/Std/Data/DHashMap/Internal/AssocList/Lemmas.lean:19]: In fact mentioning that file was already helpful, under `-j2` I was able to reproduce a hang and fix it in #7852. I was not able to reproduce any further hangs or slow behavior afterwards. If you could test that PR, that would be very helpful!

**Comment by Rob23oba** [comment]
awaiting-review

File: src/Std/Data/DHashMap/Internal/RawLemmas.lean [hunk 29]
```diff
@@ -3376,6 +3378,11 @@ theorem size_filter_eq_size_iff [LawfulBEq α]
     (m.filter f).1.size = m.1.size ↔ ∀ (a : α) (h : m.contains a), (f a (m.get a h)) = true := by
   simp_to_model [filter, size, contains, get] using Internal.List.length_filter_eq_length_iff
 
+theorem size_filter_key_eq_size_iff [EquivBEq α] [LawfulHashable α]
+    {f : α → Bool} (h : m.1.WF) :
+    (m.filter fun k _ => f k).1.size = m.1.size ↔ ∀ (k : α) (h : m.contains k), f (m.getKey k h) := by
```
Comment (TwoFX) [inline src/Std/Data/DHashMap/Internal/RawLemmas.lean:3383]: Have you considered `∀ k ∈ m.keys, f k` for the RHS? Not sure which one is better in applications.

**Comment by jt0202** [comment]
I think we should now have all versions where we filter based only on the key. In many cases it is though basically the same lemma as in the normal case.

File: src/Std/Data/DHashMap/Internal/RawLemmas.lean (hunk 29 above)
Comment (jt0202) [reply src/Std/Data/DHashMap/Internal/RawLemmas.lean:3403]: I don't really have  a preference either. I added `forall_mem_keys_iff_forall_contains_getKey` to translate between the statements.

File: src/Std/Data/DHashMap/Internal/RawLemmas.lean [hunk 30]
```diff
@@ -3065,6 +3087,770 @@ end Const
...
+    {f : α → Bool} {k : α} (h : m.1.WF) :
+    (m.filter (fun a _ => f a)).contains k ↔ ∃ h : m.contains k, f (m.getKey k h) := by
+  simp_to_model [filter, contains, getKey] using List.containsKey_filter_key
+
+theorem contains_of_contains_filter [EquivBEq α] [LawfulHashable α]
+    {f : (a : α) → β a → Bool} {k : α} (h : m.1.WF) :
+    (m.filter f).contains k = true → m.contains k = true := by
+  simp_to_model [filter, contains] using containsKey_of_containsKey_filter
+
+theorem contains_of_contains_filter_key [EquivBEq α] [LawfulHashable α]
```
Comment (TwoFX) [inline src/Std/Data/DHashMap/Internal/RawLemmas.lean:3381]: This can be dropped I think.

File: src/Std/Data/DHashMap/Internal/RawLemmas.lean [hunk 31]
```diff
@@ -3065,6 +3087,770 @@ end Const
...
+    {f : α → Bool} {k : α} (h : m.1.WF) :
+    (m.filter fun a _ => f a).contains k = true → m.contains k = true := by
+  apply contains_of_contains_filter _ h
+
+theorem size_filter_le_size [EquivBEq α] [LawfulHashable α]
+    {f : (a : α) → β a → Bool} (h : m.1.WF) :
+    (m.filter f).1.size ≤ m.1.size := by
+  simp_to_model [filter, size] using List.length_filter_le
+
+theorem size_filter_key_le_size [EquivBEq α] [LawfulHashable α]
```
Comment (TwoFX) [inline src/Std/Data/DHashMap/Internal/RawLemmas.lean:3391]: Drop

File: src/Std/Data/DHashMap/Internal/RawLemmas.lean [hunk 32]
```diff
@@ -3065,6 +3087,770 @@ end Const
...
+    {f : (a : α) → β a → Bool} {k : α} [Inhabited (β k)] (h : m.1.WF) :
+    (m.filter f).get! k = ((m.get? k).filter (f k)).get! := by
+  simp_to_model [filter, get!, get?] using List.getValueCast!_filter
+
+theorem getD_filter [LawfulBEq α]
+    {f : (a : α) → β a → Bool} {k : α} {fallback : β k} (h : m.1.WF) :
+    (m.filter f).getD k fallback = ((m.get? k).filter (f k)).getD fallback := by
+  simp_to_model [filter, getD, get?] using List.getValueCastD_filter
+
+theorem get?_filter_key [LawfulBEq α]
```
Comment (TwoFX) [inline src/Std/Data/DHashMap/Internal/RawLemmas.lean:3427]: Looks like `get(|?|!|D)_filter_key` can also be dropped

File: src/Std/Data/DHashMap/Internal/RawLemmas.lean [hunk 33]
```diff
@@ -3065,6 +3087,770 @@ end Const
...
+  simp_to_model [filter, Const.toList]
+  simp only [List.filter_map, Function.comp_def]
+  rfl
+
+theorem toList_filter_key {α : Type u} {m : Raw₀ α fun _ => β} {f : α → Bool} :
+    (Raw.Const.toList (m.filter fun a _ => f a).1).Perm
+      ((Raw.Const.toList m.1).filter (fun p => f p.1)) := by
+  simp [toList_filter]
+
+theorem keys_filter [EquivBEq α] [LawfulHashable α] {f : α → β → Bool} (h : m.1.WF):
```
Comment (TwoFX) [inline src/Std/Data/DHashMap/Internal/RawLemmas.lean:3660]: I think there is some confusion with the namespaces here. You're inside the `Const` namespace here, but it seems to me that there is no reason to have `Const` versions of `keys_filter` and `keys_filter_key`. So I think you should move these out of the `Const` namespace (and I think this will also lead to deduplication).

Comment (jt0202) [reply src/Std/Data/DHashMap/Internal/RawLemmas.lean:3660]: The `Const` version of `keys_filter` does not require `LawfulBEq` in contrast to the non-const version. The other can be dropped

File: src/Std/Data/DHashMap/Internal/RawLemmas.lean [hunk 34]
```diff
@@ -3065,6 +3087,702 @@ end Const
...
+    {f : (a : α) → β a → Bool} {k : α} (h : m.1.WF) :
+    (m.filter f).contains k = true → m.contains k = true := by
+  simp_to_model [filter, contains] using containsKey_of_containsKey_filter
+
+theorem size_filter_le_size [EquivBEq α] [LawfulHashable α]
+    {f : (a : α) → β a → Bool} (h : m.1.WF) :
+    (m.filter f).1.size ≤ m.1.size := by
+  simp_to_model [filter, size] using List.length_filter_le
+
+theorem size_filter_eq_size_iff [LawfulBEq α]
```
Comment (TwoFX) [inline src/Std/Data/DHashMap/Internal/RawLemmas.lean:3381]: I think there should be a strengthened version of this (and the variants) whose LHS is about equivalence.

**Review by TwoFX — COMMENTED** [review]
Lemmas LGTM except for the two remaining comments, so feel free to get started on the user-facing versions.

File: src/Std/Data/DHashMap/Lemmas.lean [hunk 35]
```diff
@@ -1065,18 +1095,26 @@ theorem mem_keys [LawfulBEq α] {k : α} :
...
+  Raw₀.contains_of_mem_keys ⟨m.1, _⟩ m.2 h
+
 theorem distinct_keys [EquivBEq α] [LawfulHashable α] :
     m.keys.Pairwise (fun a b => (a == b) = false) :=
   Raw₀.distinct_keys ⟨m.1, m.2.size_buckets_pos⟩ m.2
 
 @[simp]
 theorem map_fst_toList_eq_keys [EquivBEq α] [LawfulHashable α] :
-    m.1.toList.map Sigma.fst = m.1.keys  :=
+    m.toList.map Sigma.fst = m.keys  :=
```
Comment (jt0202) [inline src/Std/Data/DHashMap/Lemmas.lean:1112]: I also changed these lines as they seemed to be nonsense for me with `m.1.keys`

**Comment by Rob23oba** [comment]
awaiting-review

File: src/Std/Data/HashMap/Lemmas.lean [hunk 36]
```diff
@@ -1589,7 +1624,7 @@ theorem getElem_alter [EquivBEq α] [LawfulHashable α] {k k' : α} {f : Option
         f m[k]? |>.get h'
       else
         haveI h' : k' ∈ m := mem_alter_of_beq_eq_false (Bool.not_eq_true _ ▸ heq) |>.mp h
-        m[k']'h' :=
+        m[(k')]'h' :=
```
[the remark this answers is not in the document]
Comment (jt0202) [reply src/Std/Data/HashMap/Lemmas.lean:1627]: Without the brackets Lean inteprets this term as containing the string ']' and because of that raises an error.

[the remark this answers is not in the document]
Comment (jt0202) [reply src/Std/Data/HashMap/Lemmas.lean:1627]: A space helps alternatively as well.

[the remark this answers is not in the document]
Comment (Rob23oba) [reply src/Std/Data/HashMap/Lemmas.lean:1627]: To be fair: it doesn't raise an error, but the formatting goes all weird because it treats `']'` as a character literal and then `' :=...` as an unclosed literal.

**Comment by Rob23oba** [comment]
changelog-library

**Comment by Rob23oba** [comment]
awaiting-review

**Review by TwoFX — APPROVED** [review]
Great work as always, thanks a lot!
